US08420678B2
4-Octyl-N-(1,3,4-thiadiazol-2-yl)benzenesulfonamide (153).
To a stirred solution of 2-amino-1,3,4-thiadiazole (2.0 g, 19.7 mmol) in pyridine (30 mL) under argon at −20° C. was added p-octylbenzenesulfonyl chloride (6.06 g, 21 mmol) over 10 min. The reaction mixture was stirred at room temperature for 16 hours. Water (300 mL) was added to quench the reaction. The mixture was extracted with CH2Cl2 and the organic extracts washed with 2N HCl (2×150 mL), brine, dried over anhydrous Na2SO4, filtered, and concentrated. The residue was purified by flash chromatography on silica gel eluted with methanol:DCM 1:33 to give the product (3.83 g, 10.8 mmol, 55% yield) as a solid, mp 123-124° C.; 1H NMR (300 MHz, CDCl3) δ 0.87 (t, 3H, J=7 Hz), 1.36 (m, 10H), 1.59 (m, 2H), 2.63 (t, 2H, J=7 Hz), 7.27 (d, 2H, J=8 Hz), 7.82 (d, 2H, J=8 Hz), 8.23 (s, 1H); 13C NMR (75 MHz, CDCl3) 14.1, 22.6, 29.2, 29.3, 29.4, 31.1, 31.8, 35.9, 126.5, 129.0, 138.1, 142.6, 148.7, 167.3; MS (Q-TOF) Calcd for C16H24N3O2S2 354.1310, found 354.1211 (M+H)+; Calcd for C16H23N3NaO2S2 376.1129, found 376.1154 (M+Na)+.

reactant | 2-amino-1,3,4-thiadiazole | 19.7 mmol, 2.0 g | NC=1SC=NN1 | C2H3N3S
reactant | p-octylbenzenesulfonyl chloride | 21 mmol, 6.06 g | C(CCCCCCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C14H21ClO2S
reactant | Water | 300 mL | O | H2O
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 4-Octyl-N-(1,3,4-thiadiazol-2-yl)benzenesulfonamide | 10.8 mmol, 3.83 g, 55% yield | C(CCCCCCC)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=NN1 | C16H23N3O2S2
